US08232287B2
The same reaction as in the method described in Example 9 was performed using the 1-(6-{[1-(1H-imidazol-1-ylcarbonyl)piperidin-4-yl]oxy}pyrimidin-4-yl)-5-(methylsulfonyl)indoline (150 mg, 0.311 mmol) produced in Reference Example 29 and, instead of 2-butanol, DL-1-phenylethanol (113 μL, 0.933 mmol) to obtain the title compound as white powder (60.5 mg, yield: 37%).

reactant | 1-(6-{[1-(1H-imidazol-1-ylcarbonyl)piperidin-4-yl]oxy}pyrimidin-4-yl)-5-(methylsulfonyl)indoline | 0.311 mmol, 150 mg | N1(C=NC=C1)C(=O)N1CCC(CC1)OC1=CC(=NC=N1)N1CCC2=CC(=CC=C12)S(=O)(=O)C | C22H24N6O4S
reactant | 2-butanol | CC(CC)O | C4H10O
product | DL-1-phenylethanol | 0.933 mmol, 113 μL | CC(C1=CC=CC=C1)O | C8H10O
